US04374248
3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-ethylamino-1,2,5-thiadiazole 1,1-dioxide
Reaction of a methanolic suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide with one equivalent of ethylamine and treatment of the resultant 3-methoxy-4-ethylamino-1,2,5-thiadiazole 1,1-dioxide with one equivalent of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine yields the title compound, which is identical to the product prepared in Example 12.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | ethylamine | one equivalent | C(C)N | C2H7N
reactant | 3-methoxy-4-ethylamino-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1NCC)(=O)=O | C5H9N3O3S
reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | one equivalent | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
product | 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-ethylamino-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1NCC)(=O)=O | C14H23N5O3S2
